US09024032B2
To a suspension of 5-(benzyloxy)-2-(chloromethyl)-4H-pyran-4-one (110 g, 0.44 mol) in saturated aqueous NH4Cl (1 L) was added Zn powder (58.5 g, 0.9 mol) at r.t. and the mixture was stirred at 70° C. for 2 h. The mixture was partitioned between water and EtOAc, the EtOAc phase was collected and water phase was extracted with EtOAc twice. The combined EtOAc layer was washed with brine, dried over Na2SO4, and concentrated. The residue was purified by silica gel chromatography to give 40 g (42%) of 5-(benzyloxy)-2-methyl-4H-pyran-4-one.

reactant | 5-(benzyloxy)-2-(chloromethyl)-4H-pyran-4-one | 0.44 mol, 110 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)CCl)=O | C13H11ClO3
solvent | NH4Cl | 1 L | [NH4+].[Cl-]
catalyst | Zn | 0.9 mol, 58.5 g | [Zn] | Zn
product | 5-(benzyloxy)-2-methyl-4H-pyran-4-one | 40 g, 42% | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C)=O | C13H12O3
